Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Codeine / Compazine / Oxycodone / Vicodin / fentanyl / morphine
 
Attending: ___.
 
Chief Complaint:
Back and left leg pain
 
Major Surgical or Invasive Procedure:
L4-S1 lumbar decompression / fusion
I&D and plastic closure lumbar incision

 
History of Present Illness:
Patient for evaluation of his
back and left leg pain that goes down in the L5 distribution 
into
his lateral calf, lateral thigh as well as into his Achilles and
the onset of his foot.  He has had three surgeries by Dr. ___ 
___
two by Dr. ___ involved removal of the inferior aspect
of L4 as well L5.  He had great relief from those surgeries.  
His
symptoms returned.  He has undergone physical therapy and
injections, which helped for about one week.  Walking and
sleeping on his side and sitting make it worse.  He has seen Dr.
___ recently for evaluation for surgical intervention. 
Recommendation was a L4-S1 posterior fusion with T11.

Past Medical History:  Heart disease, chest pain once with calf,
but no significant findings.  He has ___ esophagus.

Surgical History:  Appendectomy, exploratory laparotomy for
fistula repair, Z-plasty and scar revision.  Multiple back
surgeries, laparoscopic cholecystectomy.

Medications:  Include albuterol, amitriptyline, bupropion,
diazepam, fluticasone, hydroxyzine, lisinopril, and omeprazole.

Allergies:  Codeine, Compazine, fentanyl, oxycodone, and 
Vicodin.

An MRI of his lumbar spine was done on ___, which showed
degenerative changes at L4-L5 and L5-S1 with epidural fibrosis
and severe compression in the foramen as well as spinal recess 
of
the L5 nerve root.

Dr. ___ was reviewed.

On physical examination, a healthy-appearing male.  Affect is
within normal limits.  Gait is antalgic on the left side.  His
incision is clean, dry, and intact.  His abdomen has multiple
incisions with significant amount of scarring.  He has a 
positive
straight leg raise on the left side, not on the right.  No pain
with internal rotation of hips.  Physical exam is otherwise
within normal limits.

In summary, this is a patient with significant back as well as
leg pain with severe foraminal stenosis at L5.  Given his 
overall
presentation, I agree with Dr. ___ of L4-S1 revision
decompression and stabilization, particularly noted to 
decompress
the bilateral L5 nerve roots.  TLIF was performed with iliac
crest bone graft.  Risks and benefits of all of this were
discussed with him.  He is well aware at this time given his
multiple consultations for this.  He has looked on the Internet
and understands different types of instrumentation etc.  
However,
this is still explained by me using the models and films today. 
We talked about reasonable expectations postoperatively.  He has
a very labor intensive job.
 
Past Medical History:
Past Medical History:  Heart disease, chest pain once with calf,
but no significant findings.  He has ___ esophagus.

Surgical History:  Appendectomy, exploratory laparotomy for
fistula repair, Z-plasty and scar revision.  Multiple back
surgeries, laparoscopic cholecystectomy.

 
Social History:
___
Family History:
N/C
 
Physical Exam:
AVSS
Well appearing, NAD, comfortable
BUE: N/V intact
BLE: SILT L1-S1 dermatomal distributions
BLE: ___ ___, SILT, toes WWP
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.  Refer to 
the dictated operative note for further details.  The surgery 
was without complication and the patient was transferred to the 
PACU in a stable condition.  TEDs/pnemoboots were used for 
postoperative DVT prophylaxis.  Intravenous antibiotics were 
continued for 24hrs postop per standard protocol.

Post op he had itching, including itching of his dressing and 
incision and on POD#3 his incision began to open up on the most 
superior aspect with drainage.  He was then taken to the OR for 
I&D and plastic closure.  The surgery was without complication 
and the patient was transferred to the PACU in a stable 
condition.  TEDs/pnemoboots were used for postoperative DVT 
prophylaxis.

Intraop cultures were taken and are negative as of the day of 
discharge.

Physical therapy was consulted for mobilization OOB to ambulate. 
 Hospital course was otherwise unremarkable.  On the day of 
discharge the patient was afebrile with stable vital signs, 
comfortable on oral pain control and tolerating a regular diet.
 
Discharge Medications:
1. Atazanavir 300 mg PO DAILY 
2. cromolyn 100 mg oral Q 6hrs PRN itching,swelling 
3. DiphenhydrAMINE 50 mg PO Q6H 
RX *diphenhydramine HCl 50 mg 1 tablet(s) by mouth qh6 Disp 
#*100 Capsule Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*100 Capsule Refills:*0
5. HydrOXYzine 25 mg PO Q6H:PRN itch 
6. Diazepam 5 mg PO Q6H:PRN pain, spasm 
RX *diazepam 5 mg 1 tab by mouth every six (6) hours Disp #*90 
Tablet Refills:*0
7. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
8. Lisinopril 10 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Paroxetine 10 mg PO DAILY 
11. Ranitidine 300 mg PO DAILY 
12. RiTONAvir 100 mg PO DAILY 
13. BuPROPion (Sustained Release) 300 mg PO QAM 
14. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN breakthrough pain 


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lumbar stenosis

 
Discharge Condition:
Good

 
Discharge Instructions:
You have undergone the following operation: Lumbar Decompression 
With Fusion

Immediately after the operation:

•                Activity: You should not lift anything greater 
than 10 lbs for 2 weeks. You will be more comfortable if you do 
not sit or stand more than ~45 minutes without getting up and 
walking around.

•                Rehabilitation/ Physical Therapy:

___                ___ times a day you should go for a walk 
for ___ minutes as part of your recovery.  You can walk as 
much as you can tolerate.

___                Limit any kind of lifting.

•                Diet: Eat a normal healthy diet. You may have 
some constipation after surgery.  You have been given medication 
to help with this issue.

•                Brace: You may have been given a brace. This 
brace is to be worn when you are walking. You may take it off 
when sitting in a chair or while lying in bed.

•                Wound Care: Dr. ___ and the plastic 
surgery service will be monitoring your wound.  You will go home 
with a JP drain in.  Please empty and record the volume of the 
drain every 8 hours or as taught in the hospital by the nursing 
staff and plastic surgery service.  Please keep your incision 
covered with a dry sterile dressing

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.  Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.  You can either 
have them mailed to your home or pick them up at the clinic 
located on ___.  We are not allowed to call in or fax 
narcotic prescriptions (oxycontin, oxycodone, percocet) to your 
pharmacy.  In addition, we are only allowed to write for pain 
medications for 90 days from the date of surgery.

•                Follow up:            

___                Please Call the office and make an 
appointment for 2 weeks after the day of your operation if this 
has not been done already.

Please follow up with Dr. ___ (plastic surgery) in 1 week

___                At the 2-week visit we will check your 
incision, take baseline X-rays and answer any questions. We may 
at that time start physical therapy.

___                We will then see you at 6 weeks from the 
day of the operation and at that time release you to full 
activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit.  If you have drainage from your wound please call 
the plastic surgery office.

 

 

Physical Therapy:
-Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.
 
-Rehabilitation/ Physical Therapy:
     -___ times a day you should go for a walk for ___ minutes 
as part of your recovery.  You can walk as much as you can 
tolerate.
     -Limit any kind of lifting.
Treatments Frequency:
You will go home with a JP drain in.  Please empty and record 
the volume of the drain every 8 hours or as taught in the 
hospital by the nursing staff and plastic surgery service.  
Please keep your incision covered with a dry sterile dressing
 
Followup Instructions:
___